US04720586
(a) Methyl 2-carboxybenzenepropanoate
2-carboxybenzenepropanoic acid (9.7 g., 0.05 mole), acetic anhydride (15.5 g., 0.15 mole) and acetyl chloride (0.5 g) in dichloromethane (200 ml) was boiled at reflux under nitrogen for 16 hr. The solvents were removed at high vacuum and the residual cyclic anhydride was heated at reflux with methanol (250 ml) for 2 hrs. Evaporation of solvent gave the sub-title compound as an oil which crystallised with petroleum ether (b.p.60°-80°) to a solid (6.3 g) mp 76°-79°. This was further purified by continuous extraction of the crude product with boiling petroleum (b.p.40°-60°) in a Soxhlet apparatus. The pure compound, mp 79°-81° separated from the extracts on cooling.

reactant | 2-carboxybenzenepropanoic acid | 0.05 mole, 9.7 g | C(=O)(O)C1=C(C=CC=C1)CCC(=O)O | C10H10O4
reactant | acetic anhydride | 0.15 mole, 15.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetyl chloride | 0.5 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Methyl 2-carboxybenzenepropanoate | C(=O)(O)C1=C(C=CC=C1)CCC(=O)OC | C11H12O4
